* C:\GitHub\research-simulation\Ltspice\FCMC\7level_delay_EPC.asc
V2 N010 0 PULSE(0 5 0 {trise} 1p {1/freq*(1-duty)} {1/freq})
V§Source Vin 0 {Vin}
V3 N011 nc5b PULSE(0 4.5 {1/freq/6+delay} {trise} 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
C2 nc5t nc5b {C} Rser={ESR} Lser={ESL} IC={Vin/6*5}
C4 nc4t nc4b {C} Rser={ESR} Lser={ESL} IC={Vin/6*4}
C6 nc3t nc3b {C} Rser={ESR} Lser={ESL} IC={Vin/6*3}
C8 nc2t nc2b {C} Rser={ESR} Lser={ESL} IC={Vin/6*2}
C9 nc1t nc1b {C} Rser={ESR} Lser={ESL} IC={Vin/6*1}
L sw N001 10µ Rser=25m ic = {Vin*duty/Rload}
R1 N001 0 {Rload}
C10 N001 0 10µ IC={Vin*duty} Rser=1m
V1 N012 nc4b PULSE(0 5 {1/freq/3} {trise} 1p {1/freq*(1-duty)} {1/freq})
V4 N013 nc3b PULSE(0 4.5 {1/freq/2+delay} {trise} 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
V5 N014 nc2b PULSE(0 5 {1/freq/3*2} {trise} 1p {1/freq*(1-duty)} {1/freq})
V6 N015 nc1b PULSE(0 4.5 {1/freq/6*5+delay} {trise} 1p {1/freq*(1-duty)-delay+delay2} {1/freq})
V7 N009 sw PULSE(0 5 {1/freq/6*5+1/freq*(1-duty)+dead} {trise} 1p {1/freq*duty-dead*2} {1/freq})
V8 N004 nc5t PULSE(0 4.5 {1/freq*(1-duty)+dead+delay} {trise} 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
V9 N005 nc4t PULSE(0 5 {1/freq/6+1/freq*(1-duty)+dead} {trise} 1p {1/freq*duty-dead*2} {1/freq})
V10 N006 nc3t PULSE(0 4.5 {1/freq/3+1/freq*(1-duty)+dead+delay} {trise} 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
V11 N007 nc2t PULSE(0 5 {1/freq/2+1/freq*(1-duty)+dead} {trise} 1p {1/freq*duty-dead*2} {1/freq})
V12 N008 nc1t PULSE(0 4.5 {1/freq/3*2+1/freq*(1-duty)+dead+delay} {trise} 1p {1/freq*duty-dead*2-delay+delay2} {1/freq})
R3 N001 sw 1k
XU1 Ph1 nc5b 0 EPC2016C
XU2 Ph2 nc4b nc5b EPC2016C
XU3 Ph3 nc3b nc4b EPC2016C
XU4 Ph4 nc2b nc3b EPC2016C
XU5 Ph5 nc1b nc2b EPC2016C
XU6 Ph6 sw nc1b EPC2016C
XU7 Ph6b nc1t sw EPC2016C
XU8 Ph5b nc2t nc1t EPC2016C
XU9 Ph4b nc3t nc2t EPC2016C
XU10 Ph3b nc4t nc3t EPC2016C
XU11 Ph2b nc5t nc4t EPC2016C
XU12 Ph1b Vin nc5t EPC2016C
R2 Ph1 N010 {Rgate}
R4 Ph2 N011 {Rgate}
R5 Ph1b N004 {Rgate}
R6 Ph2b N005 {Rgate}
R7 Ph3b N006 {Rgate}
R8 Ph3 N012 {Rgate}
R9 Ph4b N007 {Rgate}
R10 Ph5b N008 {Rgate}
R11 Ph6b N009 {Rgate}
R12 Ph6 N015 {Rgate}
R13 Ph5 N014 {Rgate}
R14 Ph4 N013 {Rgate}
D1 Ph1b N004 MyDiode
D2 Ph2b N005 MyDiode
D3 Ph3b N006 MyDiode
D4 Ph4b N007 MyDiode
D5 Ph5b N008 MyDiode
D6 Ph6b N009 MyDiode
D7 Ph1 N010 MyDiode
D8 Ph2 N011 MyDiode
D9 Ph3 N012 MyDiode
D10 Ph4 N013 MyDiode
D11 Ph5 N014 MyDiode
D12 Ph6 N015 MyDiode
.model D D
.lib C:\Users\pilawa_group\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran {50m + 2/freq} uic
.model MYSWH SW(Ron=7m Roff=1Meg Vt=.5)
.model MYSWL SW(Ron=7m Roff=1Meg Vt=.5)
.model MyDiode D(Ron=2m Roff=1Meg Vfwd=0.01)
.param delay=3n delay2=2n
.param freq=120k
.param duty=0.25 Vin= 90 Rload = 5
.param dead=40n trise=1n
.param C = 0.5u ESR = 5m ESL = 0n Rgate = 15
.meas TRAN S6max MAX V(sw) - V(nc1b)
.meas TRAN S5max MAX V(nc1b) - V(nc2b)
.meas TRAN S4max MAX V(nc2b) - V(nc3b)
.meas TRAN S3max MAX V(nc3b)-V(nc4b)
.meas TRAN S2max MAX V(nc4b)-V(nc5b)
.meas TRAN S1max MAX V(nc5b)
.meas TRAN Vc5 MAX V(nc5t)-V(nc5b)
.meas TRAN Vc4 MAX V(nc4t)-V(nc4b)
.meas TRAN Vc3 MAX V(nc3t)-V(nc3b)
.meas TRAN Vc2 MAX V(nc2t)-V(nc2b)
.meas TRAN Vc1 MAX V(nc1t)-V(nc1b)
.meas TRAN S6bmax MAX V(nc1t) - V(sw) 
.meas TRAN S5bmax MAX V(nc2t) - V(nc1t) 
.meas TRAN S4bmax MAX V(nc3t) - V(nc2t) 
.meas TRAN S3bmax MAX V(nc4t) - V(nc3t)
.meas TRAN S2bmax MAX V(nc5t) - V(nc4t)
.meas TRAN S1bmax MAX V(Vin) - V(nc5t)
.lib EPCGanlibrary.lib
.backanno
.end
